US05510362
1. 4-(1,2,4-Triazol-1-yl)nitrobenzene
1,2,4-Triazole sodium derivative (90%) (17.74 g, 0.18 mol) and 1-fiuoro-4-nitrobenzene (25 g, 0.18 mol), in DMF, (150 ml) was stirred at room temperature for 4 days. Water (300 ml) and ethyl acetate (500 ml) were added and the mixture extracted. The organic layer was separated, washed with water (3×300 ml), dried (MgSO4) and evaporated to give the desired product (24.8 g); δ (360 MHz, CDCl3)7.92 (2H, d, J=9.1 Hz, Ar--H), 8.17 (1H, s, Ar--H), 8.40 (2H, d, J=9.1 Hz, Ar--H), 8.48 (1H, s, Ar--H).

reactant | 1,2,4-Triazole sodium | 0.18 mol, 17.74 g | [Na].N1N=CN=C1
reactant | 1-fiuoro-4-nitrobenzene | 0.18 mol, 25 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Water | 300 ml | O | H2O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-(1,2,4-Triazol-1-yl)nitrobenzene | 24.8 g | N1(N=CN=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6N4O2
